US07034039B2
To a solution of tert-butyl[6-(2-amino-2-oxoethoxy)-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.15 g, 0.3 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL), and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and crystallized from ethyl acetate-diisopropyl ether to give 2-[[3-(aminomethyl)-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride (0.12 g, 92.3%) as crystals.

reactant | tert-butyl[6-(2-amino-2-oxoethoxy)-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.3 mmol, 0.15 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)OCC(=O)N)=O)CC(C)C)=O | C27H32FN3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(aminomethyl)-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride | 0.12 g, 92.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)OCC(=O)N)=O)CC(C)C | InChI=1S/C22H24FN3O3.ClH/c1-13(2)11-26-19(10-24)21(14-4-3-5-15(23)8-14)18-9-16(29-12-20(25)27)6-7-17(18)22(26)28;/h3-9,13H,10-12,24H2,1-2H3,(H2,25,27);1H
